US08044213B2
To a mixture of 3.3 g (7.16 mmole) of 2-(6-benzyloxy-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid (I.25b), 20 mL of dimethylformamide and 3.26 g (8.59 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium, 3-oxide, hexafluorophosphate(1-) (1:1) was added 0.759 g (14.52 mmole) of ammonium chloride followed by 3.74 mL (21.48 mmole) of ethyldiisopropylamine. The mixture was stirred at ambient temperature for 1 hour and then diluted with 500 mL of water. The suspension was stirred for 30 minutes. The precipitate was collected by filtration to afford 3.2 g of 2-(6-benzyloxy-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide as an off-white solid (I.25c).

reactant | 2-(6-benzyloxy-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid | 7.16 mmole, 3.3 g | C(C1=CC=CC=C1)OC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(=O)O)C1 | C24H16ClN3O3S
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium | 8.59 mmole, 3.26 g | CN(C)C(=[N+]1N=NC2=NC=CC=C21)N(C)C
reactant | hexafluorophosphate(1-) | F[P-](F)(F)(F)(F)F
reactant | ammonium chloride | 14.52 mmole, 0.759 g | [Cl-].[NH4+]
reactant | ethyldiisopropylamine | 21.48 mmole, 3.74 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | water | 500 mL | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(6-benzyloxy-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 3.2 g | C(C1=CC=CC=C1)OC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(=O)N)C1 | C24H17ClN4O2S
